US07915267B2
By a method similar to that in Step 1 of Example 32, and using, instead of N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide, N-[(3-aminophenyl)methyl]-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide obtained in Reference Example 48 and using, instead of 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid, 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylic acid obtained in Reference Example 35, 5-methyl-4-oxo-N-{[3-({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]carbonyl}amino)phenyl]methyl}-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide was obtained as a white powder (575 mg, 88%).

reactant | N-[(3-aminophenyl)methyl]-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide | NC=1C=C(C=CC1)CNC(=O)C1=NC2=CC=C(C=C2C(N1)=O)C#N | C17H13N5O2
reactant | N-[(3-aminophenyl)methyl]-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | NC=1C=C(C=CC1)CNC(=O)C=1NC(C2=C(N1)SC=C2C)=O | C15H14N4O2S
reactant | 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid | C1(=CC=CC=C1)C(N1N=C(N=C1)CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
reactant | 1-(triphenylmethyl)-1H-1,2,4-triazole-3-carboxylic acid | C1(=CC=CC=C1)C(N1N=C(N=C1)C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17N3O2
product | 5-methyl-4-oxo-N-{[3-({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]carbonyl}amino)phenyl]methyl}-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=CC=C2)NC(=O)C2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H29N7O3S
